US06528543B1
A solution of freshly prepared lithium diisopropylamide (16.3 mL of a 0.31 M stock solution, 5.04 mmol) cooled to −78° C. was treated with (3,4-dichloro-phenyl)-acetic acid methyl ester (1.0 g, 4.58 mmol) in tetrahydrofuran/hexamethylphosphoramide (8.6 mL, 3:1). The resulting solution was stirred at −78° C. for 45 min. At this time, the reaction was treated with a solution of bromomethylcyclohexane (1.92 mL, 13.76 mmol) in hexamethylphosphoramide (1 mL). The reaction mixture was stirred at −78° C. for 3 h. The reaction was warmed to 25° C. and stirred at 25° C. for 16 h. The reaction mixture was then quenched by the dropwise addition of a saturated aqueous ammonium chloride solution (20 mL). This mixture was poured into water (100 mL) and extracted with ethyl acetate (3×50 mL). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 75/25 hexanes/ethyl acetate) afforded 3-cyclohexyl-2-(3,4-dichloro-phenyl)-propionic acid methyl ester (1.5 g, quant.) as a clear oil: EI-HRMS m/e calcd for C16H20Cl2O2 (M+) 314.0840, found 314.0836.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (3,4-dichloro-phenyl)-acetic acid methyl ester | 4.58 mmol, 1.0 g | COC(CC1=CC(=C(C=C1)Cl)Cl)=O | C9H8Cl2O2
reactant | bromomethylcyclohexane | 13.76 mmol, 1.92 mL | BrCC1CCCCC1 | C7H13Br
solvent | tetrahydrofuran hexamethylphosphoramide | 8.6 mL | O1CCCC1.CN(P(=O)(N(C)C)N(C)C)C
solvent | hexamethylphosphoramide | 1 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 3-cyclohexyl-2-(3,4-dichloro-phenyl)-propionic acid methyl ester | 1.5 g | COC(C(CC1CCCCC1)C1=CC(=C(C=C1)Cl)Cl)=O | C16H20Cl2O2
